US07855215B2
5-(6-Azido-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid [4-(4-ethyl-piperazin-1-ylmethyl)-phenyl]-amide
To a solution of 218 mg (0.44 mMol) 5-(6-chloro-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid [4-(4-ethyl-piperazin-1-ylmethyl)-phenyl]-amide in 2.5 ml DMF, 57 mg (0.88 mMol) NaN3 are added at rt. After 2.5 h at 68° C., the resulting red solution is poured into water and extracted three times with EtOAc. The organic layers are washed twice with water and brine, dried (Na2SO4) and concentrated, yielding the title compound: MS: [M+1]+=500; HPLC: AtRet=10.5.

reactant | 5-(6-chloro-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid [4-(4-ethyl-piperazin-1-ylmethyl)-phenyl]-amide | 0.44 mMol, 218 mg | C(C)N1CCN(CC1)CC1=CC=C(C=C1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC=NC(=C1)Cl | C26H29ClN6O2
reactant | NaN3 | 0.88 mMol, 57 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 5-(6-Azido-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid [4-(4-ethyl-piperazin-1-ylmethyl)-phenyl]-amide | C(C)N1CCN(CC1)CC1=CC=C(C=C1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC=NC(=C1)N=[N+]=[N-] | C26H29N9O2
